US04174318
(3R,4R)-4(2'-Methyl-n-propyldithio)-3-phenylacetamidoazetidin-2-one (0.5 g., 0.0015 mole), phenacyl bromide (1.0 g., 0.005 mole), and tributyl phosphine (0.8 ml., 0.0032 mole) were stirred in N,N-dimethylformamide (10 ml.) for 0.25 hours. The reaction mixture was poured into water (100 ml.) and extracted with ethyl acetate (3×100 ml.). The combined organic phases were washed with water (2×100 mls.) and evaporated to a yellow oil which was chromatographed on silica gel eluting with 33% ethyl acetate in benzene to yield (3R,4R)-3-phenylacetamido-4-phenacylthioazetidin-2-one (0.429 g., 78%). The constants were as described previously for compound B in Example 3.

reactant | (3R,4R)-4(2'-Methyl-n-propyldithio)-3-phenylacetamidoazetidin-2-one | 0.0015 mole, 0.5 g | CC(CSS[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O)C | C15H20N2O2S2
reactant | phenacyl bromide | 0.005 mole, 1.0 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | tributyl phosphine | 0.0032 mole, 0.8 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3R,4R)-3-phenylacetamido-4-phenacylthioazetidin-2-one | 0.429 g, 78% | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N[C@@H]1SCC(=O)C1=CC=CC=C1)=O | C19H18N2O3S
